US09255097B2
4-[2-(4-amino-piperidin-1-yl)-1-ethyl-6-oxo-1,6-dihydro-pyrimidin-4-yl]-2-fluoro-benzonitrile
To a mixture of {1-[4-(4-cyano-3-fluoro-phenyl)-1-ethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester (180 mg, 0.41 mmol) in EA (5 mL) was added a 4 M solution of HCl in EA (3 mL). The reaction mixture was stirred for 30 min. The solvent was evaporated in vacuo to give 150 mg of the titled compound (97%) as a yellow solid (HCl salt). 1H NMR (400 MHz, CD3OD): δ 1.28 (t, J=7.2 Hz, 1H), 1.48-1.52 (m, 2H), 1.99-2.02 (m, 2H), 2.94-3.01 (m, 2H), 3.33-3.38 (m, 1H), 6.81 (q, J=6.8 Hz, 2H), 4.85-4.88 (m, 2H), 6.95 (s, 1H), 7.73 (t, J=8.0 Hz, 1H), 7.90-7.95 (m, 2H). [M+H] Calc'd for C18H20FN5O, 342. Found, 342.

reactant | {1-[4-(4-cyano-3-fluoro-phenyl)-1-ethyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 0.41 mmol, 180 mg | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C=C(N1)C1=CC(=C(C=C1)C#N)F)=O)CC)=O | C23H28FN5O3
reactant | HCl | Cl | ClH
solvent | EA | 5 mL | CC(OCC)=O | C4H8O2
solvent | EA | 3 mL | CC(OCC)=O | C4H8O2
product | 4-[2-(4-amino-piperidin-1-yl)-1-ethyl-6-oxo-1,6-dihydro-pyrimidin-4-yl]-2-fluoro-benzonitrile | 150 mg, 97% | NC1CCN(CC1)C=1N(C(C=C(N1)C1=CC(=C(C#N)C=C1)F)=O)CC | C18H20FN5O
